US07667041B2
Synthesis of 1-(2-fluoro-4-[1,2,4]triazol-1-ylphenyl)ethanone
A solution of 2,4-difluoroacetophenone (2.43 mL), 1,2,4-triazole (1.59 g) and potassium carbonate (5.32 g) in toluene (10 mL) was stirred at 100° C. overnight. The reaction solution was returned to room temperature, and then water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (elution solvent:heptane-ethyl acetate system) to obtain 187 mg of the title compound. Properties data of the compound are as follows.

reactant | 2,4-difluoroacetophenone | 2.43 mL | CC(=O)C1=C(C=C(C=C1)F)F | C8H6F2O
reactant | 1,2,4-triazole | 1.59 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 5.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-fluoro-4-[1,2,4]triazol-1-ylphenyl)ethanone | 187 mg | FC1=C(C=CC(=C1)N1N=CN=C1)C(C)=O | C10H8FN3O
